US03971800
20 g. of 4-ethoxy-1-ethyl-6-methyl-1H-1,2,3-triazolo[4,5-c]pyridine-7-carboxylic acid ethyl ester are hydrolyzed with aqueous sodium hydroxide to obtain 4-ethoxy-1-ethyl-6-methyl-1H-1,2,3-triazolo[4,5-c]pyridine-7-carboxylic acid.

reactant | 4-ethoxy-1-ethyl-6-methyl-1H-1,2,3-triazolo[4,5-c]pyridine-7-carboxylic acid ethyl ester | C(C)OC(=O)C=1C2=C(C(=NC1C)OCC)N=NN2CC | C13H18N4O3
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-ethoxy-1-ethyl-6-methyl-1H-1,2,3-triazolo[4,5-c]pyridine-7-carboxylic acid | C(C)OC1=NC(=C(C2=C1N=NN2CC)C(=O)O)C | C11H14N4O3
